US07691882B2
3-(3-(4-Butoxymethyl-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a solution of 4-butoxymethyl-phenyl-acetohydroximoyl chloride (28 mg, 0.11 mmol) described in Manufacturing Example 4-1-4 and 3-ethynyl-pyridin-2-ylamine (13 mg, 0.11 mmol) described in Manufacturing Example 1-2-3 in tetrahydrofuran (1 mL) was added triethylamine (31 μL, 0.22 mmol) at room temperature, which was stirred for 70 minutes at room temperature. The reaction solution was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1) and then further purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (2.3 mg, 5%) as a trifluoroacetic acid salt.

reactant | 4-butoxymethyl-phenyl-acetohydroximoyl chloride | 0.11 mmol, 28 mg | C(CCC)OCC1=CC=C(C=C1)CC(=NO)Cl | C13H18ClNO2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.11 mmol, 13 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.22 mmol, 31 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Butoxymethyl-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 2.3 mg, 5% | C(CCC)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C20H23N3O2
